US04859230
N-[4-Chloro-5-(2,2-dichlorocyclopropylmethoxy)-2-fluorophenyl]-3,4,5,6-tetrahydrophthalimide (Compound No 1.1)
8.9 g (0.031 mol) 4-Chloro-2-fluoro-5-(2,2-dichlorocyclopropylmethoxy) aniline was dissolved in 12.5 ml acetic acid and 3.85 g 3,4,5,6-tetrahydrophthalic anhydride added. The mixture was heated under reflux for 3 hours, then poured into ice-water and extracted with ether. The ether phase was neutralised with aqueous sodium hydrogen carbonate, washed with saturated brine, dried over magnesium sulphate and the solvent removed. The residue was chromatographed on silica gel using a mixture of 9 parts hexane and 1 part ethyl acetate as eluent.

reactant | 4-Chloro-2-fluoro-5-(2,2-dichlorocyclopropylmethoxy) aniline | 0.031 mol, 8.9 g | ClC1=CC(=C(N)C=C1OCC1C(C1)(Cl)Cl)F | C10H9Cl3FNO
reactant | 3,4,5,6-tetrahydrophthalic anhydride | 3.85 g | C1(C2=C(C(=O)O1)CCCC2)=O | C8H8O3
solvent | acetic acid | 12.5 ml | C(C)(=O)O | C2H4O2
product | N-[4-Chloro-5-(2,2-dichlorocyclopropylmethoxy)-2-fluorophenyl]-3,4,5,6-tetrahydrophthalimide | ClC1=CC(=C(C=C1OCC1C(C1)(Cl)Cl)N1C(C2=C(C1=O)CCCC2)=O)F | C18H15Cl3FNO3
